US08609287B2
Synthesis of 1,4-bis[(2-methoxyethoxy)methoxy]-2,5-di-tert-butyl-benzene.
The title compound was prepared in a manner similar to that of Example 1, by dissolving 2,5-Di-tert-butylhydroquinone (0.2 mmol) in anhydrous THF (20 ml). Sodium hydride (0.6 mmol) and 2-methoxyethoxymethyl chloride (0.4 mmol) was added to the solution. The reaction was stirred at room temperature overnight. After removal the solvent, the residue was partitioned between dichloromethane and aqueous NaHCO3 (0.1M). The organic portion was separated and dried over Na2SO4. After solvent removal in vacuo, the crude product was chromatographed (silica, hexanes/DCM from 5:1 to 1:1) to afford 1,4-bis[(2-methoxyethoxy)methoxy]-2,5-di-tert-butyl-benzene in an 80% yield. The product was characterized by 1H NMR (300 MHz, CDCl3, δ/ppm): 7.14 (s, 2H), 5.25 (s, 4H), 3.85 (t, J=4.5 Hz, 4H), 3.61 (t, J=4.5 Hz, 4H), 3.40 (s, 6H), 1.36 (s, 18H).

reactant | 2,5-Di-tert-butylhydroquinone | 0.2 mmol | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
reactant | Sodium hydride | 0.6 mmol | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 0.4 mmol | COCCOCCl | C4H9ClO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,4-bis[(2-methoxyethoxy)methoxy]-2,5-di-tert-butyl-benzene | COCCOCOC1=C(C=C(C(=C1)C(C)(C)C)OCOCCOC)C(C)(C)C | C22H38O6
